US04271295
To a solution of 240 mg of diphenylmethyl (2R)-2-(3-phenyl-7-oxo-4-oxa-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl)-3-trifluoroacetyloxymethyl-3-butenoate in 10 ml of a mixture (4:1) of methanol and methylene chloride is added 4.8 g of silica gel containing 10% water, and the mixture stirred for 30 minutes and filtered. The filter cake, silica gel, is washed several times with a mixture of methanol and methylene chloride. The combined filtrate and washings are evaporated under reduced pressure. The oily residue is chromatographed on 12 g of silica gel. Elution with a mixture (2:1) of benzene and ethyl acetate yields 106 mg of diphenylmethyl (2R)-2-(3-phenyl-7-oxo-4-oxa-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl)-3-hydroxymethyl-3-butenoate in 53% yield and 90 mg of the starting material in 35% recovery.

reactant | diphenylmethyl (2R)-2-(3-phenyl-7-oxo-4-oxa-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl)-3-trifluoroacetyloxymethyl-3-butenoate | 240 mg | C1(=CC=CC=C1)C1=NC2C(N(C2O1)[C@@H](C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(=C)COC(C(F)(F)F)=O)=O | C30H23F3N2O6
reactant | methanol | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | diphenylmethyl (2R)-2-(3-phenyl-7-oxo-4-oxa-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl)-3-hydroxymethyl-3-butenoate | 106 mg, 53% yield | C1(=CC=CC=C1)C1=NC2C(N(C2O1)[C@@H](C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(=C)CO)=O | C28H24N2O5
